US04730008
(E)-4-[3-Methoxy-4-(methoxymethoxy)phenyl]-3-buten-1-ol
n-Butyllithium (1.6M in hexane, 25 ml) was added dropwise to a stirred suspension of (3-hydroxypropyl)triphenylphosphonium bromide (8.03 g) in dry THF (50 ml) cooled to 0° under nitrogen. The resulting blood-red solution was stirred at 0° for 10 min and then 3-methoxy-4-(methoxymethoxy)-benzaldehyde (3.60 g) in dry THF (10 ml) was added dropwise over 5 min. The mixture was allowed to warm to room temperature, stirred for 4 h, water (10 ml) was added and the majority of the solvent was removed in vacuo at 40°. A solution of the residual oil in ER (200 ml) was washed with water (150 ml), dried, treated with charcoal, concentrated and purified by FCC eluting with EA-H (1:1) to give the title compound (1.55 g). T.l.c. (EA-H 1:1) Rf 0.30.

reactant | n-Butyllithium | 1.6M, 25 ml | C(CCC)[Li]
reactant | (3-hydroxypropyl)triphenylphosphonium bromide | 8.03 g | [Br-].OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-methoxy-4-(methoxymethoxy)-benzaldehyde | 3.60 g | COC=1C=C(C=O)C=CC1OCOC | C10H12O4
reactant | water | 10 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (E)-4-[3-Methoxy-4-(methoxymethoxy)phenyl]-3-buten-1-ol | 1.55 g | COC=1C=C(C=CC1OCOC)/C=C/CCO | C13H18O4
